US06995162B2
1-[2-(5-Nitro-2-pentafluoroethyl-phenoxy)-ethyl]-piperidine was prepared from 5-nitro-2-pentafluoroethylphenol and 1-(2-chloroethyl)piperidine by a procedure similar to that described in the preparation of 1-[2-(2-tert-butyl-5-nitro-phenoxy)-ethyl]-piperidine.

reactant | 5-nitro-2-pentafluoroethylphenol | [N+](=O)([O-])C=1C=CC(=C(C1)O)C(C(F)(F)F)(F)F | C8H4F5NO3
reactant | 1-(2-chloroethyl)piperidine | ClCCN1CCCCC1 | C7H14ClN
reactant | 1-[2-(2-tert-butyl-5-nitro-phenoxy)-ethyl]-piperidine | C(C)(C)(C)C1=C(OCCN2CCCCC2)C=C(C=C1)[N+](=O)[O-] | C17H26N2O3
product | 1-[2-(5-Nitro-2-pentafluoroethyl-phenoxy)-ethyl]-piperidine | [N+](=O)([O-])C=1C=CC(=C(OCCN2CCCCC2)C1)C(C(F)(F)F)(F)F | C15H17F5N2O3
